US07741321B2
To a solution of 1-chloro-2-methoxy-4-methyl-benzene (50 g, 0.32 mol) in CCl4 (350 mL) was added NBS (57.2 g, 0.32 mol) and AIBN (10 g, 60 mmol). The mixture was heated at reflux for 3 hours. The solvent was evaporated under vacuum and the residue was purified by column chromatography on silica gel (Petroleum Ether/EtOAc=20:1) to give 4-bromomethyl-1-chloro-2-methoxy-benzene (69 g, 92%). 1H NMR (400 MHz, CDCl3) δ 7.33-7.31 (m, 1H), 6.95-6.91 (m, 2H), 4.46 (s, 2H), 3.92 (s, 3H).

reactant | 1-chloro-2-methoxy-4-methyl-benzene | 0.32 mol, 50 g | ClC1=C(C=C(C=C1)C)OC | C8H9ClO
reactant | NBS | 0.32 mol, 57.2 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 60 mmol, 10 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 350 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-bromomethyl-1-chloro-2-methoxy-benzene | 69 g, 92% | BrCC1=CC(=C(C=C1)Cl)OC | C8H8BrClO
